US09382255B2
5-Methoxy-6-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-1,3-benzothiazol-2(3H)-one
20 mg (130 μmol) 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CAS-No. 3680-59-1) were transformed in analogy to example 1 using 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one to give after working up and purification 8.0 mg (19%) of the title compound.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 130 μmol, 20 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one | NC1=CC2=C(NC(S2)=O)C=C1OC | C8H8N2O2S
product | 5-Methoxy-6-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-1,3-benzothiazol-2(3H)-one | COC=1C(=CC2=C(NC(S2)=O)C1)NC=1C2=C(N=CN1)NC=C2 | C14H11N5O2S
